US06294558B1
1-[3-Ethoxy-4-(methylsulfonyl)phenyl]-5-[4-(2-furyl)phenyl]-1H-pyrazole-3-carboxylic Acid
To a stirred solution of ethyl 1-[3-fluoro-4-(methylsulfonyl)phenyl]-5-[4-(2-furyl)phenyl]-1H-pyrazole-3-carboxylate (0.57 g, 1.25 mmol) in ethanol (15 mL) was added 2N-NaOH solution in water (1.6 mL, 3.14 mmol), and the mixture was heated at reflux temperature for 30 minutes. After cooling, 2N-HCl solution (4 mL) and water (30 mL) were added to the mixture. The whole was extracted with ethyl acetate (20 mL×3), the organic layer was washed with brine, dried over MgSO4, and concentrated in vacuo. The resulting solid was washed with methylene chloride to give the title compound (0.413 g, 73.0%, yield).

reactant | ethyl 1-[3-fluoro-4-(methylsulfonyl)phenyl]-5-[4-(2-furyl)phenyl]-1H-pyrazole-3-carboxylate | 1.25 mmol, 0.57 g | FC=1C=C(C=CC1S(=O)(=O)C)N1N=C(C=C1C1=CC=C(C=C1)C=1OC=CC1)C(=O)OCC | C23H19FN2O5S
reactant | NaOH | [OH-].[Na+]
reactant | water | 3.14 mmol, 1.6 mL | O | H2O
reactant | HCl | 4 mL | Cl | ClH
reactant | water | 30 mL | O | H2O
reactant | ethanol | 15 mL | C(C)O | C2H6O
product | 1-[3-Ethoxy-4-(methylsulfonyl)phenyl]-5-[4-(2-furyl)phenyl]-1H-pyrazole-3-carboxylic Acid | 0.413 g, 73.0% | C(C)OC=1C=C(C=CC1S(=O)(=O)C)N1N=C(C=C1C1=CC=C(C=C1)C=1OC=CC1)C(=O)O | C23H20N2O6S
